US07465815B2
3-(4-Cyclohexylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine
Using N-benzyl-3-(4-cyclohexylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine obtained in Reference Example 283, the title compound was synthesized in the same manner as in Reference Example 30. Yield 79%. Melting point: 139-140° C. (hexane).

reactant | N-benzyl-3-(4-cyclohexylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(=CO2)C2=CC=C(C=C2)C2CCCCC2)C1C)C)C | C30H33NO
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Cyclohexylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine | Yield 79% | C1(CCCCC1)C1=CC=C(C=C1)C1=COC2=C1C(=C(C(=C2C)C)N)C | C23H27NO
